US05164512
To 11.6 g of anhydrous aluminum chloride, 60 ml of carbon disulfide was added, followed by dropwise addition of 30 g of N,N-diethylaniline under ice-cooling. Then, 10 g of oxalyl chloride was added dropwise thereto at 5° C. or lower, followed by the reaction for 1 hour with stirring. After the reaction, the reaction solution was poured into 100 ml of water and 200 ml of chloroform. The chloroform layer obtained by separation was washed with 2N hydrochloric acid, dried and concentrated. The residue was recrystallized from ethyl acetate to give yellow 1,2-bis(4-diethylaminophenyl)ethane-1,2-dione in an amount of 7.0 g.

reactant | aluminum chloride | 11.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | carbon disulfide | 60 ml | C(=S)=S | CS2
reactant | N,N-diethylaniline | 30 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | oxalyl chloride | 10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 1,2-bis(4-diethylaminophenyl)ethane-1,2-dione | C(C)N(C1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)N(CC)CC)=O)CC | C22H28N2O2
